US07759376B2
To a solution of methyl N-methyl-N-[(4′-nitro-1,1′-biphenyl-4-yl)carbonyl]-L-valinate (0.70 g, 1.9 mmol) in 85% ethanol (20 mL) was added iron powder (1.05 g, 18.9 mmol) and 2N aqueous HCl solution (0.41 mL). The resulting mixture was heated at reflux for 2 h. The mixture was then filtered through a pad of Celite® and concentrated under reduced pressure. The residue was dissolved in methylene chloride, washed with water and brine, dried (Na2SO4) and concentrated under reduced pressure to afford methyl N-[(4′-amino-1,1′-biphenyl-4-yl)carbonyl]-N-methyl-L-valinate (0.49 g, 76%). 1H NMR (400 MHz, CD3OD) δ 0.85 (dd, 3H), 1.06 (dd, 3H), 2.35 (m, 1H), 3.02 (d, 3H), 3.75 (d, 3H), 4.05 (d, 0.5H), 4.78 (d, 0.5H), 6.78 (d, 2H), 7.42 (m, 4H), 7.63 (d, 2H); LC-MS m/z 341.2 (MH+), retention time 2.37 minutes.

reactant | methyl N-methyl-N-[(4′-nitro-1,1′-biphenyl-4-yl)carbonyl]-L-valinate | 1.9 mmol, 0.70 g | CN([C@@H](C(C)C)C(=O)OC)C(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)[N+](=O)[O-] | C20H22N2O5
reactant | HCl | 2N, 0.41 mL | Cl | ClH
solvent | ethanol | 20 mL | C(C)O | C2H6O
catalyst | iron | 18.9 mmol, 1.05 g | [Fe] | Fe
product | methyl N-[(4′-amino-1,1′-biphenyl-4-yl)carbonyl]-N-methyl-L-valinate | 0.49 g, 76% | NC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)N([C@@H](C(C)C)C(=O)OC)C | C20H24N2O3
